Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.28381803511
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.4248293500020001
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.35555472975
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1],2.84465968677
[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.92915021376
[C:1]#[C:2][H:3].[C:4](#[C:5])[O:6][H:7]>>[C:1]=[C:2]([H:3])[C:4](=[C:5])[O:6][H:7],-2.4048077292700003
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-1.08737111305
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4][C:5],3.15324756464
[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:7][C:8][H:9]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][H:9],-2.76467232264
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.5774656046
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.43425165219
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.70719905642
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[H:12],1.69559627113
[H:12].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.99615574706
[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.37781201789
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-0.942432588381
[H:1][C:2]([H:3])[C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-2.65532906
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.07658702906
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:10]([H:11])([H:12])[H:13].[C:7]([H:8])[H:9],5.1190754172
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11],2.47215291278
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.415251215780001
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],1.99674927522
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:10]([H:8])[H:11].[C:6]([H:7])#[C:9],5.634135931009999
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.76005450966
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-4.1036636457699975
[C:12]([H:13])([H:14])=[C:15]([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-1.24886438248
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],3.7673203367300014
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:5],2.15587108305
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12].[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([O:11])([H:12])[H:13],-1.05721739213
